US04715994
1-Aminoethyl-(2-carbomethoxy-1-propyl)phosphinic acid
A solution of 100 mg of 1-aminoethyl-(2-carboxy-1-propyl)phosphinic acid in methanol (5 ml) was cooled to 0° C. and saturated with HCl gas. The sealed reaction mixture was then stirred 12 hours at room temperature whereupon the methanol was removed in vacuo to provide the title compound as a hydrochloride salt which was desalted via the procedure, in Example 2 using propylene oxide to provide the title compound. (80 mg).

reactant | 1-aminoethyl-(2-carboxy-1-propyl)phosphinic acid | 100 mg | NC(C)P(O)(=O)CC(C)C(=O)O | C6H14NO4P
reactant | HCl | Cl | ClH
reactant | methanol | 5 ml | CO | CH4O
product | 1-Aminoethyl-(2-carbomethoxy-1-propyl)phosphinic acid | NC(C)P(O)(=O)CC(C)C(=O)OC | C7H16NO4P
